US04294986
Preparation of 2-chloro-4-nitro-benzenethiol
A solution of sodium hydrosulfide hydrate (60 g technical; ~0.75 mol) in methanol (200 ml) is added to a solution of 3,4-dichloronitrobenzene (100.0 g; 0.52 mol) in methanol (750 ml) with cooling and at a rate to maintain the temperature of the reaction mixture below 40° C. After the addition is completed, the reaction mixture is stirred an additional 16 hours, and then poured on a mixture of ice and hydrochloric acid. The mixture remains strongly acidic. The precipitated yellow solid is filtered, washed and dried. This solid is purified by dissolving same in 25% aqueous sodium hydroxide, extracting the resultant solution several times with methylene chloride until the methylene chloride solution remains colorless. Next, concentrated hydrochloric acid is added to the aqueous solution dropwise to precipitate a light yellow solid and adjust the pH to 1-2. The thus formed slurry is filtered, the isolated solid is washed with water and dried to afford 52.6 g (55%) of title compound. A sample is recrystallized from cyclohexane, m.p. 77°- 78° C. Lit. 73.5°-74° C. (ref. Nippon Kagaku Kaishi 1972, 756).

reactant | sodium hydrosulfide hydrate | ~0.75 mol, 60 g | O.[SH-].[Na+]
reactant | 3,4-dichloronitrobenzene | 0.52 mol, 100.0 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 750 ml | CO | CH4O
product | 2-chloro-4-nitro-benzenethiol | 52.6 g, 55% | ClC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H4ClNO2S
